US05258503
To 10 ml of the aminated gel obtained in Preparation Example 2 were added, first 10 ml of water, next 1 g of barium glucose-6-phosphate, to which 0.5 ml of 2M NaOH was further added and the mixture was maintained at 45° C. for 1 hour. After 0.1 g of NaBH4 was added thereto, the mixture was allowed to stand at room temperature for 24 hours. After the reaction was completed, the gel was filtered off from the reaction mixture and washed with water to give a cellulose gel with immobilized glucose-6-phosphate. The amount of the introduced anionic functional group derived from the immobilized glucose-6-phosphate was 10 μmol to 1 ml of the adsorbent.

reactant | barium glucose-6-phosphate | 1 g | P(=O)([O-])([O-])OC[C@H]([C@H]([C@@H]([C@H](C=O)O)O)O)O.[Ba+2]
reactant | NaOH | 2M, 0.5 ml | [OH-].[Na+]
reactant | NaBH4 | 0.1 g | [BH4-].[Na+]
solvent | water | 10 ml | O | H2O
product | glucose-6-phosphate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
